US03932430
4,5-dihydro-3-(4-pyridyl)-2H-naphtho[1,2-c]pyrazole
When an equivalent amount of 2-bromo-benzo[b]cycloheptanone or 2-bromo-8-methoxy-benzo[b]cycloheptanone is substituted for the 2-bromo-α-tetralone in step A of example 1 above, there is obtained following the processes of steps A of example 1 and B above, 3-(4-pyridyl)-2,4,5,6-tetra-hydrobenzo[6,7]-cyclohepta[1,2-c]pyrazole(m.p. 217°-219°C) or 9-methoxy-3-(4-pyridyl)-2,4,5,6-tetrahydrobenzo[6,7]cyclohepta [1,2-c]pyrazole (m.p. 200°-201°C) respectively.

reactant | 2-bromo-benzo[b]cycloheptanone | BrC=1C=CC2=C(CCCCC2=O)C1 | C11H11BrO
reactant | 2-bromo-8-methoxy-benzo[b]cycloheptanone | BrC=1C=CC2=C(CC(CCC2=O)OC)C1 | C12H13BrO2
reactant | 2-bromo-α-tetralone | C1CC2=CC=CC=C2C(=O)C1Br | C10H9BrO
reactant | 3-(4-pyridyl)-2,4,5,6-tetra-hydrobenzo[6,7]-cyclohepta[1,2-c]pyrazole | N1=CC=C(C=C1)C1=C2C(=NN1)C1=C(CCC2)C=CC=C1 | C17H15N3
reactant | 9-methoxy-3-(4-pyridyl)-2,4,5,6-tetrahydrobenzo[6,7]cyclohepta [1,2-c]pyrazole | COC1=CC2=C(CCCC=3C2=NNC3C3=CC=NC=C3)C=C1 | C18H17N3O
product | 4,5-dihydro-3-(4-pyridyl)-2H-naphtho[1,2-c]pyrazole | N1=CC=C(C=C1)C1=C2C(=NN1)C1=CC=CC=C1CC2 | C16H13N3
